US07932389B2
Step a) Formation of 1-tert-butyl 2-ethyl 1H-pyrrolo[2,3-c]pyridine-1,2-dicarboxylate (Compound of Formula IIc wherein R11 is ethyl, R13 is Boc)
To a solution ethyl 1H-pyrrolo[2,3-c]pyridine-2-carboxylate (Fisher et al., 1969, above) (480 mg, 2.52 mmol) in DMF (12 mL) at 0° C. was added 60% sodium hydride (121 mg, 3.02 mmol, 1.2 eq.). The reaction mixture was stirred at 0° C. for 30 min and di-tertbutyl dicarbonate solution (1 M in DMF, 659 mg, 3.02 mmol, 1.2 eq.) was added. The reaction mixture was stirred at rt for 24 hours and was partitioned between water and DCM. The combined organic layers were dried over Na2SO4 and concentrated. Remaining DMF was evaporated and resulting residue was purified by column chromatography (c-Hex/EtOAc gradient: 80/20 to 30/70 in 25 minutes) to give the title compound (656 mg, 90%). HPLC purity: 99%. 1H NMR (300 MHz, CDCl3) δ 1.41 (t, 3H, J=7.1 Hz), 1.67 (s, 9H), 4.42 (q, 2H, J=7.1 Hz), 7.01 (s, 1H), 7.55 (d, 1H, J=4.9 Hz), 8.47 (br s, 1H), 9.41 (br s, 1H). Rf (c-Hex/EtOAc 70/30)=0.2.

reactant | ethyl 1H-pyrrolo[2,3-c]pyridine-2-carboxylate | 2.52 mmol, 480 mg | N1C(=CC=2C1=CN=CC2)C(=O)OCC | C10H10N2O2
reactant | sodium hydride | 3.02 mmol, 121 mg, 1.2 eq. | [H-].[Na+]
reactant | di-tertbutyl dicarbonate | 3.02 mmol, 1 M, 659 mg, 1.2 eq. | C(=O)(OC(C)(C)C)OC(=O)OC(C)(C)C | C10H18O5
solvent | DMF | 12 mL | CN(C)C=O | C3H7NO
product | 1-tert-butyl 2-ethyl 1H-pyrrolo[2,3-c]pyridine-1,2-dicarboxylate | 656 mg, 90% | N1(C(=CC=2C1=CN=CC2)C(=O)OCC)C(=O)OC(C)(C)C | C15H18N2O4
